US09079866B2
5-{3-Fluoro-2′-[(4-methyl piperazin-1-yl)sulfonyl]biphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-4-methylpiperazine. MS (ESI): mass calcd. for C21H22FN5O2S, 427.15; m/z found, 428.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37 (m, 1H), 8.23 (d, J=1.4, 1H), 8.16-8.12 (m, 1H), 8.02-7.96 (m, 1H), 7.78-7.73 (m, 1H), 7.68-7.62 (m, 1H), 7.48-7.45 (m, 1H), 7.34 (s, 1H), 7.32-7.30 (m, 1H), 3.61-3.33 (m, 4H), 3.01-2.70 (m, 7H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-4-methylpiperazine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C | C11H15BrN2O2S
product | 5-{3-Fluoro-2′-[(4-methyl piperazin-1-yl)sulfonyl]biphenyl-4-yl}pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C | C21H22FN5O2S
